US05965730
To a solution of N-(2-bromoisonicotinoyl)-3-(3,4-dimethoxyphenyl)alanine ethyl ester (12.8 g) in tetrahydrofuran (100 ml) is added sodium borohydride (3.3 g), and thereto is added dropwise methanol (15 ml) with heating under reflux over a period of three hours. The reaction mixture is cooled with ice, and thereto is added water. The mixture is extracted with chloroform, and the extract is washed, dried, and concentrated to give 2-(2-bromoisonicotinoylamino)-3-(3,4-dimethoxyphenyl)-1-propanol (10.2 g).

reactant | N-(2-bromoisonicotinoyl)-3-(3,4-dimethoxyphenyl)alanine ethyl ester | 12.8 g | C(C)OC([C@@H](NC(C1=CC(=NC=C1)Br)=O)CC1=CC(=C(C=C1)OC)OC)=O | C19H21BrN2O5
reactant | sodium borohydride | 3.3 g | [BH4-].[Na+]
reactant | methanol | 15 ml | CO | CH4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-bromoisonicotinoylamino)-3-(3,4-dimethoxyphenyl)-1-propanol | 10.2 g | BrC=1C=C(C(=O)NC(CO)CC2=CC(=C(C=C2)OC)OC)C=CN1 | C17H19BrN2O4
